US05786508
2-amino-4-(2-amino-5-chlorophenyl)-4-oxo-butyric acid (D,L-5-chloro-kynurenine)
A solution of diethyl acetamido-(2-amino-5-chlorophenacyl)-malonate (5.3 g, 0.01377 mol) in concentrated hydrochloric acid (60 ml) was refluxed for 7 h under stirring.

reactant | diethyl acetamido-(2-amino-5-chlorophenacyl)-malonate | 0.01377 mol, 5.3 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CC(=O)C1=C(C=CC(=C1)Cl)N | C17H21ClN2O6
solvent | hydrochloric acid | 60 ml | Cl | ClH
product | 2-amino-4-(2-amino-5-chlorophenyl)-4-oxo-butyric acid | NC(C(=O)O)CC(=O)C1=C(C=CC(=C1)Cl)N | C10H11ClN2O3
